US05994378
A mixture of crude 4-tert-butyl-2-[5-(thiocarbamoylmethyl)benzofuran-2-yl]thiazole (0.73 g) and ethyl 4-chloroacetoacetate (0.92 g) in ethyl acetate (30 ml) was stirred under reflux for 18 hours. After being cooled, the resulting mixture was poured into aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated in reduced pressure. The residue was subjected to column chromatography on silica gel and eluted with ethyl acetate. The fractions containing object compound were combined and concentrated under reduced pressure to give 4-tert-butyl-2-{5-{[4-(ethoxycarbonylmethyl)thiazol-2-yl]methyl}benzofuran-2-yl}thiazole (0.61 g).

reactant | 4-tert-butyl-2-[5-(thiocarbamoylmethyl)benzofuran-2-yl]thiazole | 0.73 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CC(N)=S | C17H18N2OS2
reactant | ethyl 4-chloroacetoacetate | 0.92 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 4-tert-butyl-2-{5-{[4-(ethoxycarbonylmethyl)thiazol-2-yl]methyl}benzofuran-2-yl}thiazole | 0.61 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CC=2SC=C(N2)CC(=O)OCC | C23H24N2O3S2
